US07470692B2
Piperazine-1-carboxylic acid 2,2,2-trichloro-ethyl ester and 7-formyl-1-methyl-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide were reacted under the reductive amination conditions described in Example 2 to provide the desired 4-[2-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylic acid 2,2,2-trichloro-ethyl ester.

reactant | Piperazine-1-carboxylic acid 2,2,2-trichloro-ethyl ester | ClC(COC(=O)N1CCNCC1)(Cl)Cl | C7H11Cl3N2O2
reactant | 7-formyl-1-methyl-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)C=O)C)OC)NS(=O)(=O)C | C23H27N3O5S
product | 4-[2-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylic acid 2,2,2-trichloro-ethyl ester | ClC(COC(=O)N1CCN(CC1)CC=1C=CC=C2C=C(N(C12)C)C(NC1=C(C(=CC(=C1)C(C)(C)C)NS(=O)(=O)C)OC)=O)(Cl)Cl | C30H38Cl3N5O6S
